US08470878B2
(4,5-difluoro-7-nitro-benzofuran-6-yl)-(2-fluoro-4-iodo-phenyl)-amine
For scale up, a solution of 3-(2,2-diethoxyethoxy)-5,6-difluoro-N-(2-fluoro-4-iodophenyl)-2-nitroaniline (75 g) in 300 mL of DCM was added quickly into a solution of BF3.ET2O in 100 mL of DCM at 28-32° C. with further stirring for 15 minutes. After about 2 hours, analysis showed complete conversion. The solution was then quenched by 1N NaOH (dropwise) at a temperature below 30° C. to pH 10 before separating. DCM was then washed with water twice to a pH of about 7 and concentrated to dryness. 210 mL of MBTE was then added. The suspension was stirred for 30 minutes, filtered and dried to give 43 g of an orange solid. 1H NMR (CDCl3, 400 MHz): δ 8.80 (bs, 1H), 7.75 (d, 1H), 7.48 (dd, 1H), 7.41 (d; 1H); 6.97 (d, 1H), 6.75-6.80 (m, 1H).

reactant | 3-(2,2-diethoxyethoxy)-5,6-difluoro-N-(2-fluoro-4-iodophenyl)-2-nitroaniline | 75 g | C(C)OC(COC=1C(=C(NC2=C(C=C(C=C2)I)F)C(=C(C1)F)F)[N+](=O)[O-])OCC | C18H18F3IN2O5
reactant | BF3 | B(F)(F)F | BF3
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (4,5-difluoro-7-nitro-benzofuran-6-yl)-(2-fluoro-4-iodo-phenyl)-amine | 43 g | FC1=C(C(=C(C2=C1C=CO2)[N+](=O)[O-])NC2=C(C=C(C=C2)I)F)F | C14H6F3IN2O3
